US04329518
Under a dry nitrogen atmosphere a mixture of 3-chloro-2-ethyl-[1,1'-biphenyl] (2.3 g, 0.0106 mole), copper cyanide (1.4 g, 0.0016 mole) and pyridine (1.2 g, 0.016 mole) was heated at 195° for approximately 18 hours. The reaction mixture was cooled to room temperature to give a solid. The solid was dissolved in 300 ml of methylene chloride and washed with 25% aqueous ammonium hydroxide and the aqueous phase extracted with 250 ml of methylene chloride. The organic phases were combined, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated to give 2-ethyl-[1,1'-biphenyl]-3-carbonitrile as a solid. A mixture of ethyl-[1,1'-biphenyl]-3-carbonitrile (2.2 g, 0.0106 mole), 40 ml of 10 N aqueous sodium hydroxide, and 40 ml of ethanol was heated at reflux for approximately 18 hours. The reaction mixture was cooled and the ethanol evaporated under reduced pressure. The remaining aqueous portion was diluted with 100 ml of water, then extracted with three 150 ml portions of methylene chloride. The organic phases were combined, dried over anhydrous magnesium sulfate, and filtered. The filtrate was evaporated to give 2-ethyl-[1,1'-biphenyl]-3-carboxamide (2.4 g).

reactant | ethyl-[1,1'-biphenyl]-3-carbonitrile | 0.0106 mole, 2.2 g | C(C)C1=C(C=CC=C1C#N)C1=CC=CC=C1 | C15H13N
reactant | sodium hydroxide | 10 N, 40 ml | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-ethyl-[1,1'-biphenyl]-3-carboxamide | 2.4 g | C(C)C1=C(C=CC=C1C(=O)N)C1=CC=CC=C1 | C15H15NO
